US06992087B2
Preparation of 5-methyl-6,7-dihydro-1-benzofuran-4(5H)-one
Following the procedure for the preparation of 5-methyl-6,7-dihydro-1-benzothiophen-4(5H)-one but substituting 6,7-dihydro-1-benzofuran-4(5H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.24, 1.95, 2.25, 2.55, 2.93, 6.68, 7.33; MS (EI) m/z (rel. intensity) 150 (M+, 54), 150 (54), 121 (10), 109 (8), 108 (99), 86 (26), 84 (39), 80 (56), 52 (19), 51 (26), 50 (7). HRMS (FAB) calcd for C9H10O2+H 151.0759, found 151.0760. Anal. Calcd for C9H10O2: C, 71.98; H, 6.71. Found: C, 71.55; H, 6.74; N, 0.19.

reactant | 5-methyl-6,7-dihydro-1-benzothiophen-4(5H)-one | CC1CCC2=C(C=CS2)C1=O | C9H10OS
reactant | 6,7-dihydro-1-benzofuran-4(5H)-one | O1C=CC2=C1CCCC2=O | C8H8O2
product | 5-methyl-6,7-dihydro-1-benzofuran-4(5H)-one | CC1CCC2=C(C=CO2)C1=O | C9H10O2
